US07855216B2
Step 3: 3-(2-Fluoro-4-trimethylsilanyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
3-Amino-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (25 g, 114 mmol), trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester (47.0 g, 149 mmol), Pd2(dba)3 (5.0 g, 5.5 mmol), Xantphos (6.5 g, 11.3 mmol) and cesium carbonate (74.5 g, 228 mmol) were suspended in toluene (500 mL) and the flask evacuated and purged with argon. The reaction mixture was heated at reflux for 18 hours. The mixture was cooled and filtered through Celite® washing through with toluene. The filtrate was evaporated in vacuo and the residue subjected to flash chromatography (SiO2, gradient 0-10% MeOH in DCM) to give the title compound (37.4 g, 85%) as a yellow solid. 1H NMR (CDCl3) 8.79 (1H, d, J=1.1 Hz), 8.39 (1H, d, J=6.1 Hz), 7.60 (1H, s, br), 7.25 (0.5H, s), 7.22 (1H, s), 7.21 (0.5H, d, J=1.0 Hz), 7.14-7.10, (2H, m), 4.42 (2H, q, J=7.0 Hz), 3.97 (3H, s), 1.44 (3H, t, J=7.0 Hz), 0.26 (9H, s).

reactant | 3-Amino-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 114 mmol, 25 g | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)N | C11H13N3O2
reactant | trifluoro-methanesulfonic acid 2-fluoro-4-trimethylsilanyl-phenyl ester | 149 mmol, 47.0 g | FC1=C(C=CC(=C1)[Si](C)(C)C)OS(=O)(=O)C(F)(F)F | C10H12F4O3SSi
reactant | Xantphos | 11.3 mmol, 6.5 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 228 mmol, 74.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 5.5 mmol, 5.0 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2-Fluoro-4-trimethylsilanyl-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 37.4 g, 85% | C(C)OC(=O)C1=C(C=2C=NC=CC2N1C)NC1=C(C=C(C=C1)[Si](C)(C)C)F | C20H24FN3O2Si
